US08859584B2
6,8-difluoro-2,2-bis(fluoromethyl)chroman-4-one
A solution of 1-(3,5-difluoro-2-hydroxyphenyl)ethanone (4.98 g, 28.9 mmol), MeOH (50 mL), 1,3-difluoroacetone (5.44 g, 57.9 mmol), and pyrrolidine (4.79 mL, 57.9 mmol) was heated at 60° C. for 20 hours. The dark solution was cooled, concentrated, chased with toluene, and then passed through a silica gel plug, washing with toluene (200 mL) and MTBE (200 mL). The filtrate was washed with 2N NaOH (50 mL×2), dried (Na2SO4), filtered, and concentrated to afford the title compound (5.80 g, 23.37 mmol, 81%), which was used without further purification in the next step. MS (DCI) m/z 299 (M+51)+.

reactant | 1-(3,5-difluoro-2-hydroxyphenyl)ethanone | 28.9 mmol, 4.98 g | FC=1C(=C(C=C(C1)F)C(C)=O)O | C8H6F2O2
reactant | 1,3-difluoroacetone | 57.9 mmol, 5.44 g | FCC(=O)CF | C3H4F2O
reactant | pyrrolidine | 57.9 mmol, 4.79 mL | N1CCCC1 | C4H9N
solvent | MeOH | 50 mL | CO | CH4O
product | 6,8-difluoro-2,2-bis(fluoromethyl)chroman-4-one | 23.37 mmol, 5.80 g, 81% | FC=1C=C2C(CC(OC2=C(C1)F)(CF)CF)=O | C11H8F4O2
